US06469006B1
A mixture of 4-fluoro-7-bromoindole (600 mg, 2.8 mmol) and CuCN (1.004 g, 11.2 mmol) in DMF (4 ml) was refluxed for 16 hours. After cooling to room temperature, the reaction mixture was poured into a solution of ammonia in MeOH (30 ml, sat.) and the residue removed by filtration. The filtrate was added to a mixture of water (20 ml)/ammonia (20 ml, sat. aq.) and extracted with EtOAc/Ether (1/1) until TLC analysis showed no product in the aqueous phase. The combined organic extracts were washed with brine (2×200 ml) and water (200 ml), dried (MgSO4); evaporation in zacuo gave 4-fluoro-7-cyanoindole as a tan yellow solid (310 mg, 69%).

reactant | 4-fluoro-7-bromoindole | 2.8 mmol, 600 mg | FC1=C2C=CNC2=C(C=C1)Br | C8H5BrFN
reactant | CuCN | 11.2 mmol, 1.004 g | C(#N)[Cu]
reactant | ammonia | N | H3N
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 30 ml | CO | CH4O
product | 4-fluoro-7-cyanoindole | 310 mg, 69% | FC1=C2C=CNC2=C(C=C1)C#N | C9H5FN2
